US09353066B2
tert-Butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (69 mg, 0.287 mol) was added to a cooled solution of the 2,4-dichloropyrimidine-5-carbonitrile (50 mg, 0.287 mmol) and Hunig's base (50 uL, 0.287 mmol) in CH2Cl2 (1.5 mL) and the reaction mixture was stirred for 3 hours at 0° C. The solvent was removed under reduced pressure, then the mixture was diluted with CH3CN (2 mL) and the biphenyl-3-amine (97 mg, 0.575 mol) was added. The mixture was then heated to 80° C. overnight. Upon cooling, the reaction mixture was diluted with ethyl acetate, washed with H2O and then brine and the organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) provided a mixture of the two possible isomers which was separated by the reverse phase chromatography to afford tert-butyl 8-[2-(biphenyl-3-ylamino)-5-cyanopyrimidin-4-yl]-2,8-diazaspiro[4.5]decane-2-carboxylate. MS ESI calcd. for C30H35N6O2 [M+H]+ 511, found 511.

reactant | tert-Butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 0.287 mol, 69 mg | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | 2,4-dichloropyrimidine-5-carbonitrile | 0.287 mmol, 50 mg | ClC1=NC=C(C(=N1)Cl)C#N | C5HCl2N3
reactant | Hunig's base | 0.287 mmol, 50 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-3-amine | 0.575 mol, 97 mg | C1(=CC(=CC=C1)N)C1=CC=CC=C1 | C12H11N
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 8-[2-(biphenyl-3-ylamino)-5-cyanopyrimidin-4-yl]-2,8-diazaspiro[4.5]decane-2-carboxylate | C1(=CC(=CC=C1)NC1=NC=C(C(=N1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C#N)C1=CC=CC=C1 | C30H34N6O2
